US07365069B2
N-(4-Fluorophenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (0.50 g, 33.6 mmol) and 4-fluoroaniline (0.372 g, 33.6 mmol) by following the procedure described in preparation 1, (0.43 g, 49.3%, mp 145-147° C., purity 94.7% by HPLC). 1H-NMR (CDCl3):δ 2.52 (s, 3H), 6.93-6.94 (m, 3H), 7.17-7.32 (m, 5H). MS m/z:261.1(M+)

reactant | 4-methylthiobenzonitrile | 33.6 mmol, 0.50 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-fluoroaniline | 33.6 mmol, 0.372 g | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(4-Fluorophenyl)-4-(methylthio)benzenecarboximidamide | FC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C14H13FN2S
